US09353075B2
Step 1. Preparation of 2,2-dimethyl-4-phenyl-butanoic acid
To a stirring mixture of diisopropylamine (2.2 mL, 15 mmol) and sodium hydride [60% in mineral oil] (0.66 g, 16.5 mmol) in dry THF (50 mL), isobutyric acid (1.4 mL, 15 mmol) was dropwise added. The mixture was refluxed for 15 min, cooled to 0° C., and 2.5M n-butyllithium (BuLi) in hexane (5.45 mL, 14 mmol;) was added. After 20 min at 0° C., the mixture was heated to 30-35° C. for 30 min. The solution was then cooled to 0° C. and (2-bromoethyl)-benzene (2.8 mL, 15 mmol) was slowly added over 20 min. After ca. 1 h at 30-35° C. the reaction was quenched by adding water (40 mL), while keeping the temperature below 15° C. The aqueous layer was separated, and the organic layer washed with a mixture of Et2O/H2O (1:1). The aqueous layers were combined, extracted with Et2O (20 mL), acidified with 2M HCl solution, and the product was further extracted with Et2O (2×30 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under vacuum to afford the title compound (0.619 g, 21%) as a colorless oil. 1H NMR (CDCl3): δ 1.31 (s, 6H), 1.86-1.95 (m, 2H), 2.59-2.68 (m, 2H), 7.17-7.33 (m, 5H).

reactant | diisopropylamine | 15 mmol, 2.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | sodium hydride | 16.5 mmol, 0.66 g | [H-].[Na+]
reactant | isobutyric acid | 15 mmol, 1.4 mL | C(C(C)C)(=O)O | C4H8O2
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | hexane | 14 mmol, 5.45 mL | CCCCCC | C6H14
reactant | (2-bromoethyl)-benzene | 15 mmol, 2.8 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-4-phenyl-butanoic acid | 0.619 g, 21% | CC(C(=O)O)(CCC1=CC=CC=C1)C | C12H16O2
